US09301525B2
2,2-difluoro-N-[1-((6-fluoropyridin-3-yl)methyl)pyridin-2(1H)-ylidene]acetamide (Compound 3-3)
128 mg (0.75 mmol) of 5-bromomethyl-2-fluoropyridine was dissolved in 3 ml of anhydrous DMF, 116 mg (0.68 mmol) of 2,2-difluoro-N-[pyridin-2(1H)-ylidene]acetamide was dissolved in 3 ml of anhydrous DMF and added thereto, and subsequently, 103 mg (0.75 mmol) of potassium carbonate was added thereto and the resulting mixture was stirred at 65° C. for 2 hours. After the reaction was completed, the reaction solution was returned to room temperature, and ethyl acetate and water were added thereto to perform liquid separation. The organic layer was washed with 1% hydrochloric acid, then dried over anhydrous magnesium sulfate and concentrated under reduced pressure. A small amount of hexane and diethyl ether were added thereto to precipitate crystals, and thus the crystals were collected and dried to obtain the subject material. Amount obtained 50 mg (yield 26%).

reactant | 5-bromomethyl-2-fluoropyridine | 0.75 mmol, 128 mg | BrCC=1C=CC(=NC1)F | C6H5BrFN
reactant | 2,2-difluoro-N-[pyridin-2(1H)-ylidene]acetamide | 0.68 mmol, 116 mg | FC(C(=O)N=C1NC=CC=C1)F | C7H6F2N2O
reactant | potassium carbonate | 0.75 mmol, 103 mg | C([O-])([O-])=O.[K+].[K+]
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | DMF | 3 ml | CN(C)C=O | C3H7NO
solvent | DMF | 3 ml | CN(C)C=O | C3H7NO
solvent | water | O | H2O
product | 2,2-difluoro-N-[1-((6-fluoropyridin-3-yl)methyl)pyridin-2(1H)-ylidene]acetamide | yield 26% | FC(C(=O)N=C1N(C=CC=C1)CC=1C=NC(=CC1)F)F | C13H10F3N3O
